US08669361B2
Reaction of 5-chloro-1-methyl-4-nitro-1H-pyrazole and N-methyl piperazine gave 1-methyl-4-(1-methyl-4-nitro-1H-pyrazol-5-yl)piperazine as an oil (0.18 g, 65%). 1H NMR (400 MHz, CDCl3) δ 8.02 (s, 1H), 3.77 (s, 3H), 3.26 (t, J=4.6 Hz, 4H), 2.60-2.53 (m, 4H), 2.38 (s, 3H)

reactant | 5-chloro-1-methyl-4-nitro-1H-pyrazole | ClC1=C(C=NN1C)[N+](=O)[O-] | C4H4ClN3O2
reactant | N-methyl piperazine | CN1CCNCC1 | C5H12N2
product | 1-methyl-4-(1-methyl-4-nitro-1H-pyrazol-5-yl)piperazine | 0.18 g, 65% | CN1CCN(CC1)C1=C(C=NN1C)[N+](=O)[O-] | C9H15N5O2
